US08134007B2
3-Trifluoromethyl-isoxazole-4-carboxylic acid
3-Trifluoromethyl-isoxazole-4-carboxylic acid ethyl ester (Preparation 47, 1.00 g, 4.78 mmol), glacial acetic acid (4 ml), concentrated hydrochloric acid (2 ml, 20 mmol) and water (2 ml, 200 mmol) were heated together with stirring at 70° C. for 2 hours. Solvents were removed by evaporation in vacuo and the residue was left to stand at room temperature for 16 hours. Water (40 ml) and t-butylmethyl ether (80 ml) was added and the layers separated. The organic layer was washed with dilute hydrochloric acid (20 ml), then dried over anhydrous Na2SO4 (s), filtered and evaporated in vacuo to afford the title compound as a brown gum (70 mg, 8%). Material was taken on with no further purification.

reactant | 3-Trifluoromethyl-isoxazole-4-carboxylic acid ethyl ester | 4.78 mmol, 1.00 g | C(C)OC(=O)C=1C(=NOC1)C(F)(F)F | C7H6F3NO3
reactant | hydrochloric acid | 20 mmol, 2 ml | Cl | ClH
reactant | water | 200 mmol, 2 ml | O | H2O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 3-Trifluoromethyl-isoxazole-4-carboxylic acid | 70 mg, 8% | FC(C1=NOC=C1C(=O)O)(F)F | C5H2F3NO3
